Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine / tamoxifen
 
Attending: ___
 
Chief Complaint:
Chest Pain, SOB, Headache
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with significant PMH of stage 1a breast cancer p/w chest 
pain
x 1 month. Patient states her pain has been going on for 1 month
with radiation to R arm with associated SOB. 

Chest pain is described as sharp and dull, intermittent, ___,
lasting a few minutes to an hour. Feels like someone is sitting
on her chest at times. Denies any alleviating or exacerbating
symptoms. Has taken Tylenol and ibuprofen with minimal effect.
Reports 1 month of dry cough as well. Reports associated 
headache
and nausea. HA described as bilateral, starting in front with
radiation to back. States her headache is "pretty much 
constant".
Denies any F/C, sick contacts, diarrhea, constipation.

Of note, patient has had multiple PET/CT since ___ notable for
symmetric PET avid hilar adenopathy, most recently favored to be
sarcoidosis though metastatic disease remains possible. Patient
also noted to have stable RUL pulmonary nodule. 

In the ED, initial vitals: 98.7 | 100 | 137/104 | 20 | 98% RA.
Labs significant for 

4.3 > 12.3/39.4 < 269 

142 | 105 | 23  
---------------< 101
4.7 | 26  | 0.9 

EKG with NSR, HR 92, no acute ischemic changes, incomplete RBBB.

UA without evidence of infection

CXR with no acute cardiopulmonary abnormality. CTA Chest 
reported
as normal CTA of the chest, specifically no ___ adenopathy
noted. 
 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
Ms. ___ has had mammograms at ___ since ___. On
___, screening mammogram revealed architectural distortion
in the left breast along with faint grouped microcalcifications
bilaterally.  Patient thereafter reports being very busy and
pushing off further imaging.  On ___, Ms. ___ 
enrolled
in a screening study offered by ___ Breast Radiology.  
Same-day
contrast-enhanced diagnostic mammogram revealed a left breast
mass associated with architectural distortion within the central
to slightly upper inner portion at anterior depth measuring 1.2 
x
1 x 1.2 cm.  Right breast was unremarkable for a dominant mass,
architectural distortion or microcalcifications but on
re-combined images there was a 0.7 x 0.6 focus of enhancement
within the superior right breast at mid depth, seen only in MLO
projection.  Same-day bilateral screening breast MRI again 
showed
an irregular spiculated left breast mass measuring 1 x 1 x 1.2
cm.  No left axillary or internal mammary lymphadenopathy
present.  However, bilateral hilar lymphadenopathy within the
right hilum measuring 3.3 x 2.4 cm in left hilum measuring 2.6 x
2.2 cm was noted.  In addition, right breast was notable for an
enhancing mass in upper outer breast at mid depth measuring 0.6 
x
0.7 x 0.8 cm with features suggesting a fibroadenoma.  Inferior
to this was a 0.8 x 0.5 x 0.5 cm irregular enhancing mass which
was suspicious and not correlated on contrast-enhanced
mammography.  No right axillary or internal intramammary
lymphadenopathy noted.  Same-day ultrasound-guided core needle
biopsy of left breast mass revealed "Invasive ductal carcinoma,
grade 2, measuring 11 mm in this limited sample. ER positive
(>95%, strong), PR positive (90%, medium), HER2 negative by IHC
(___) & FISH (ratio 1.1); Ductal carcinoma in situ, low to
focally intermediate nuclear grade, solid pattern; Lobular
carcinoma in situ and atypical lobular hyperplasia; Rare
calcifications associated with invasive carcinoma and lobules."
On ___, ultrasound-guided core needle biopsy of right
breast masses at 11:00, 4cm & 6cm from nipple, revealed benign
findings: a) fibroadenoma and b) breast parenchyma with
pseudoangiomatous stromal hyperplasia. 

PAST MEDICAL HISTORY:
- nephrolithiasis
- herniated discs at L5/S1
- depression & anxiety requiring hospitalization (but no issues
since ___
- Breast cancer s/p resection, on letrozole

PAST SURGICAL HISTORY:
- Microdiscectomy L5-S1, ___
- hysterectomy ___ placenta acreta (___)

 
Social History:
___
Family History:
No ___ ancestry. No family history of ovarian or 
gastric cancer.  Multiple women on maternal side have had breast 
cancer: Maternal grandmother at age ___, mother at age ___ and 
maternal aunt at age ___.  ___ uncles have had
bladder and prostate cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals: ___ 1821 Temp: 97.5 PO BP: 144/92 HR: 85 RR: 20 O2
sat: 98% O2 delivery: RA 
GENERAL: Lying comfortably in bed, NAD
HEENT: Clear OP without lesions or thrush
EYES: PERRL, anicteric
NECK: supple, no JVD
RESP: No increased WOB, no wheezing, rhonchi or crackles
___: RRR, no murmurs, no chest wall tenderness to palpation
GI: soft, non-tender, no rebound or guarding
EXT: no edema, warm
SKIN: dry, no obvious rashes
NEURO: alert, fluent speech. PERRL, EOMI. 
ACCESS:  PIV

DISCHARGE PHYSICAL EXAM:  
VITALS: 
24 HR Data (last updated ___ @ 1153)
    Temp: 97.9 (Tm 98.0), BP: 137/84 (112-144/74-92), HR: 81
(81-86), RR: 20 (___), O2 sat: 95%% (94-98), O2 delivery: RA,
Wt: 181.8 lb/82.46 kg
General:  NAD, Resting in bed comfortably
HEENT:  MMM, no OP lesions
CV: RRR, NL S1S2 no S3S4, no m/r/g, mild tenderness to palpation
over R anterior chest wall
PULM:  CTAB, No C/W/R, No respiratory distress
ABD:  BS+, soft, NTND, no peritoneal signs 
LIMBS: WWP, no ___, no tremors
SKIN: warm, no rashes
NEURO: CN III-XII intact, strength b/l ___ intact
PSYCH: Thought process logical, linear, future oriented
ACCESS: pIV
 
Pertinent Results:
ADMISSION LABS:

___ 07:47PM BLOOD WBC-4.3 RBC-4.34 Hgb-12.3 Hct-39.4 MCV-91 
MCH-28.3 MCHC-31.2* RDW-14.0 RDWSD-46.8* Plt ___
___ 07:47PM BLOOD Neuts-53.1 ___ Monos-9.2 Eos-2.3 
Baso-0.7 Im ___ AbsNeut-2.26 AbsLymp-1.47 AbsMono-0.39 
AbsEos-0.10 AbsBaso-0.03
___ 07:47PM BLOOD Glucose-101* UreaN-23* Creat-0.9 Na-142 
K-4.7 Cl-105 HCO3-26 AnGap-11
___ 05:44AM BLOOD Calcium-9.7 Phos-5.5* Mg-2.4

IMAGING:
CXR ___  
FINDINGS:  
Heart size is normal.  The mediastinal and hilar contours are 
normal. The 
pulmonary vasculature is normal. Lungs are clear.  No pleural 
effusion or 
pneumothorax is seen. There are no acute osseous abnormalities. 
  
IMPRESSION:  
No acute cardiopulmonary abnormality. 

CTA Chest ___
FINDINGS:    
HEART AND VASCULATURE: Pulmonary vasculature is well opacified 
to the 
subsegmental level without filling defect to indicate a 
pulmonary embolus. The 
thoracic aorta is normal in caliber without evidence of 
dissection or 
intramural hematoma.  The heart, pericardium, and great vessels 
are within 
normal limits. No pericardial effusion is seen. 
  
AXILLA, HILA, AND MEDIASTINUM: No axillary, mediastinal, or 
hilar 
lymphadenopathy is present.  No mediastinal mass. 
  
PLEURAL SPACES: No pleural effusion or pneumothorax. 
  
LUNGS/AIRWAYS: There is no mass or consolidation.  Minimal 
peribronchial 
thickening in the central lower lobes.  A punctate calcified 
granuloma is 
noted in the right upper lobe.  The airways are patent to the 
level of the 
segmental bronchi bilaterally. 
  
BASE OF NECK: Visualized portions of the base of the neck show 
no abnormality. 
  
ABDOMEN:  Included portion of the upper abdomen is unremarkable. 

  
BONES: No suspicious osseous abnormality is seen.? There is no 
acute fracture. 
  
IMPRESSION:  
Normal CTA of the chest. 

TTE ___:
The left atrial volume index is normal. There is mild symmetric 
left ventricular hypertrophy with a normal cavity size. There is 
suboptimal image quality to assess regional left ventricular 
function. Overall
left ventricular systolic function is normal. The visually 
estimated left ventricular ejection fraction is 55-60%. There is 
no resting left ventricular outflow tract gradient. Tissue 
Doppler suggests a normal left
ventricular filling pressure (PCWP less than 12mmHg). Normal 
right ventricular cavity size with normal free wall motion. The 
aortic sinus diameter is normal for gender with normal ascending 
aorta diameter
for gender. The aortic arch diameter is normal with a normal 
descending aorta diameter. The aortic valve leaflets (3) appear 
structurally normal. There is no aortic valve stenosis. There is 
no aortic regurgitation.
The mitral valve leaflets appear structurally normal with no 
mitral valve prolapse. There is trivial mitral regurgitation. 
The pulmonic valve leaflets are normal. The tricuspid valve 
leaflets appear structurally
normal. There is physiologic tricuspid regurgitation. The 
estimated pulmonary artery systolic pressure is normal. There is 
a trivial pericardial effusion.

IMPRESSION: Poor image quality. Mild LVH. Grossly normal 
biventricular function. Trivial MR. ___ pulmonary artery 
systolic pressure. Trivial pericardial effusion.
 
Brief Hospital Course:
Information for Outpatient Providers: ___ with significant PMH 
of stage 1a breast cancer s/p resection on letrozole p/w chest 
pain, shortness of breath, and headache x 1 month

#Chest Pain
#Shortness of Breath
Given chronicity of symptoms and no EKG changes, negative 
troponins, low suspicion of ACS. CTA negative for PE in ED. 
Given recent imaging with b/l hilar adenopathy with dry cough, 
sarcoidosis vs metastatic disease is also in the differential. 
Per review of imaging, patient with slight interval increase of 
hilar adenopathy on PET-CT between ___ and ___, originally 
thought to be more inflammatory/sarcoid given bilateral nature. 
Given patient's progressive symptoms, she was admitted for 
symptom management and expedited work up of hilar adenopathy. 
While in the hospital, patient was seen by pulmonary and 
interventional pulm. The most recent CTA done on admission 
showed slight decrease in size of hilar adenopathy per 
discussion with pulmonary. As such, she was recommended to 
follow up with a repeat CT chest in 4 weeks with IP follow up. 
An echo was done as well showing "grossly normal biventricular 
function, mild LVH, Trivial MR, normal PASP, trivial pericardial 
effusion." Her symptoms remained stable, with no noted hypoxia, 
abnormalities on telemetry or worsening chest pain/SOB and she 
was deemed stable for discharge home with close outpatient 
follow up.
- c/w Tylenol, ibuprofen PRN
- lidocaine patch for R anterior chest wall pain

# HA
Patient symptoms on presentation are not classic for cluster 
headache or migraine. Differential also includes medication 
overuse given persistent Tylenol/ibuprofen use or tension 
headaches. She was trialed on abortive O2 therapy for possible 
cluster headache as well as sumatriptan for possible migraines 
without improvement. 
- PRN Tylenol/ibuprofen, can consider steroid course for 
possible medication overuse headache as outpatient

# Depression/Anxiety
- c/w abilify, Effexor

# Back pain
# herniated discs
- c/w home fentanyl patch 25mcg
- consider weaning as outpatient

# Hx of Breast Cancer
- c/w letrozole

=======================
TRANSITIONAL ISSUES:
=======================
[] will need continued follow up with PCP for headache, SOB, and 
chest pain symptoms; differential for headache includes 
medication overuse, tension headaches, migraines
[] CT chest done done ___ with "punctate calcified 
granuloma is 
noted in the right upper lobe" which can be surveilled as 
outpatient
[] will require CT Chest in 4 weeks with outpatient follow up 
with IP 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Letrozole 2.5 mg PO DAILY 
2. ARIPiprazole 10 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Fentanyl Patch 25 mcg/h TD Q72H 
5. Venlafaxine XR 300 mg PO DAILY 
6. Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever 
7. Ibuprofen 800 mg PO Q6H 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever  
2.  ARIPiprazole 10 mg PO DAILY  
3.  Fentanyl Patch 25 mcg/h TD Q72H  
4.  Ibuprofen 800 mg PO Q6H  
5.  Letrozole 2.5 mg PO DAILY  
6.  Multivitamins 1 TAB PO DAILY  
7.  Venlafaxine XR 300 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chest Pain
Chest wall pain
Shortness of Breath
Headache
Hilar adenopathy
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It was our pleasure to care for you at ___.

You came to the hospital because of chest pain and shortness of 
breath as well as a headache.

WHAT HAPPENED IN THE HOSPITAL?
- you underwent a CT scan of the chest that did not show any 
blood clots in the lungs
- you had an ultrasound of the heart (echocardiogram) that 
showed normal heart function
- you had EKGs and bloodwork that did not show evidence of a 
heart attack
- you were seen by the pulmonary team who recommended following 
up as an outpatient and not urgently pursuing a biopsy given 
decreased size of the lymph nodes in your chest

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL?
- follow up closely with your PCP, ___, and pulmonologist
- continue your home medications

We wish you all the best!

Sincerely,
Your care team at ___
 
Followup Instructions:
___